US03976546
A cooled (-78°) solution of t-butyl (6R,7R)-3-acetoxymethyl-7-phenylacetamidoceph-3em-4-carboxylate (1.5 g.) in dry tetrahydrofuran (10 ml) was added over 3 minutes to a stirred and cooled (-78°) solution of lithium methoxide (358 mg) in dry methanol (8.8 ml) and tetrahydrofuran (50 ml) under nitrogen. t-Butyl hypochlorite (0.69 ml) was added after 3 minutes, and sitrring was continued for a further 5 minutes when the yellow solution was poured into a stirred mixture of ethyl acetate (150 ml) and water (150 ml) containing ammonium chloride (1 g) and sodium metabisulphite (1 g.). The aqueous phase was separated and extracted with ethyl acetate (50 ml) and the organic phases were combined and washed with brine (50 ml) and dried and evaporated to dryness in vacuo to give t-butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-phenylacetamidoceph-3-em-4-carboxylate (1.6 g).

reactant | t-butyl (6R,7R)-3-acetoxymethyl-7-phenylacetamidoceph-3em-4-carboxylate | 1.5 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C22H26N2O6S
reactant | lithium methoxide | 358 mg | C[O-].[Li+]
reactant | t-Butyl hypochlorite | 0.69 ml | ClOC(C)(C)C | C4H9ClO
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | sodium metabisulphite | 1 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 8.8 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | t-butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-phenylacetamidoceph-3-em-4-carboxylate | 1.6 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@]2(NC(CC2=CC=CC=C2)=O)OC)=O | C23H28N2O7S
